US08236826B2
Production of methyl 2-(4-{5-[3-(3,4-dichlorophenyl)-ureido]pyridin-2-yloxy}phenyl)acetate
To a solution of methyl 2-[4-(5-aminopyridin-2-yloxy)phenyl]acetate (0.44 g, 1.7 mmol) in dichloro-methane (7 mL) was added 3,4-dichlorophenylisocyanate (0.353 g, 1.9 mmol), and the resulting reaction solution was stirred for 1 hour at room temperature. To the reaction solution was added diisopropyl ether. Insoluble matter was removed by filtration, to thereby yield 0.60 g of the title compound.

reactant | methyl 2-[4-(5-aminopyridin-2-yloxy)phenyl]acetate | 1.7 mmol, 0.44 g | NC=1C=CC(=NC1)OC1=CC=C(C=C1)CC(=O)OC | C14H14N2O3
reactant | 3,4-dichlorophenylisocyanate | 1.9 mmol, 0.353 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloro-methane | 7 mL | ClCCl | CH2Cl2
product | methyl 2-(4-{5-[3-(3,4-dichlorophenyl)-ureido]pyridin-2-yloxy}phenyl)acetate | ClC=1C=C(C=CC1Cl)NC(NC=1C=CC(=NC1)OC1=CC=C(C=C1)CC(=O)OC)=O | C21H17Cl2N3O4
